US06465478B1
1-Phenyl-8-(1-phenylcycloheptyl)-1,3,8-triazaspiro[4.5]decan-4-one
To a stirred solution of 1-(4-oxo-1-phenyl-1,3,8-triazaspiro[4.5]dec-8-yl)cycloheptane-carbonitrile (323 mg, 0.916 mmol) in THF (6 ml) was added phenylmagnesium bromide (3M solution in diethyl ether, 3.05 ml, 9.16 mmol) at room temperature. Then the reaction mixture was stirred at room temperature for 24 h. The reaction mixture was poured into ice water, then extracted with CH2Cl2. The extracts combined were dried (Na2SO4), filtered, and concentrated. The residue was purified by preparative TLC (CH2Cl2/MeOH:10/1 to give 70.5 mg (19.1%) of title compound.

reactant | 1-(4-oxo-1-phenyl-1,3,8-triazaspiro[4.5]dec-8-yl)cycloheptane-carbonitrile | 0.916 mmol, 323 mg | O=C1NCN(C12CCN(CC2)C2(CCCCCC2)C#N)C2=CC=CC=C2 | C21H28N4O
reactant | phenylmagnesium bromide | 9.16 mmol, 3M, 3.05 ml | C1(=CC=CC=C1)[Mg]Br
solvent | THF | 6 ml | C1CCOC1 | C4H8O
product | 1-Phenyl-8-(1-phenylcycloheptyl)-1,3,8-triazaspiro[4.5]decan-4-one | 70.5 mg, 19.1% | C1(=CC=CC=C1)N1CNC(C12CCN(CC2)C2(CCCCCC2)C2=CC=CC=C2)=O | C26H33N3O
